US04207341
8.3 g 4-Chlorobenzoyl chloride are added dropwise at 5°-10° C., within the course of 10 minutes, to a solution of 11.0 g ethyl 4-(2-aminoethyl)-phenylacetate in 90 ml anhydrous pyridine. The reaction mixture is then stirred for 90 minutes at 10° C., subsequently allowed to warm up to 20° C. and thereafter warmed to 40°-45° C. for 30 minutes. The reaction mixture is then cooled and stirred into 900 ml ice water, a solid precipitate thereby being obtained. This is filtered off with suction and washed with water. There are obtained 14.5 g (94% of theory) of crude product which is recrystallized from isopropanol to give 10.9 g (70% of theory) ethyl 4-[2-(4-chlorobenzamido)-ethyl]-phenylacetate; m.p. 118°-119° C.

reactant | 4-Chlorobenzoyl chloride | 8.3 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | ethyl 4-(2-aminoethyl)-phenylacetate | 11.0 g | NCCC1=CC=C(C=C1)CC(=O)OCC | C12H17NO2
solvent | pyridine | 90 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 4-[2-(4-chlorobenzamido)-ethyl]-phenylacetate | 10.9 g, 70% | ClC1=CC=C(C(=O)NCCC2=CC=C(C=C2)CC(=O)OCC)C=C1 | C19H20ClNO3
